US07402595B2
2-benzyl-6-butyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
A mixture of 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg), n-butylboronic acid (340 mg), tetrakis(triphenylphosphine)palladium(0) (80 mg), potassium carbonate (280 mg), toluene (6 ml) and THF (3 ml) was stirred at 100° C. under a nitrogen atmosphere for 12 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine. The solvent was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=2:1) and crystallized from hexane to give the title compound (210 mg).

reactant | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=CC=C1 | C24H18BrNO3
reactant | n-butylboronic acid | 340 mg | C(CCC)B(O)O | C4H11BO2
reactant | potassium carbonate | 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-benzyl-6-butyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 210 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)CCCC)=O)CC1=CC=CC=C1 | C28H27NO3
